US08980877B2
(±)-(E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester was obtained starting from the hydrochloride salt of (±)-(E)-3-[4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (500 mg, 1.43 mmol, Intermediate 3) and ethyl chloro formate (0.163 ml, 1.70 mmol), according to the procedure described in Example 24, Step A, giving a yellow solid (540 mg, 97%). (±)-(E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester (530 mg, 1.37 mmol) was hydrolyzed using HCl and AcOH following the procedure described in Example 22, Step A. (±)-(E)-3-[1′-ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid was obtained after column chromatography (eluent DCM/MeOH 9:1) as a white solid (101 mg, 21%). Hydrolysis of the carbamate function was not observed. The acrylic acid (100 mg, 0.26 mmol) was then treated with NH2OTHP according to the procedure described in Example 22, Step C, giving (E)-3-[1′-ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide (82 mg, 65%). Finally, removal of THP protecting group following the procedure described in Example 22, Step D gave (±)-(E)-3-[1′ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-hydroxy-acrylamide (12.8 mg) as a light yellow solid.

reactant | (±)-(E)-3-[1′-Ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid methyl ester | 1.37 mmol, 530 mg | COC(\C=C\C=1C=C2C(CC3(CCN(CCC3)C(=O)OCC)OC2=CC1)=O)=O | C21H25NO6
reactant | HCl | Cl | ClH
reactant | AcOH | CC(=O)O | C2H4O2
solvent | DCM MeOH | C(Cl)Cl.CO
product | (±)-(E)-3-[1′-ethyloxycarbonyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid | C(C)OC(=O)N1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C20H23NO6
